US08859574B2
The mixture of 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (50.0 mg, 0.12 mmol) and 2-(trifluoromethyl)oxirane (67.8 mg, 0.60 mmol) in 2 mL of DMF was stirred overnight. The reaction mixture was purified by preparative RP-HPLC to afford 3-(4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-5-fluoro-2-methylphenyl)piperidin-1-yl)-1,1,1-trifluoropropan-2-ol. ESMS m/z 528.2 (M+H+).

reactant | 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.12 mmol, 50.0 mg | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCNCC1)F)NC1=NNC(=C1)C | C20H23ClFN7
reactant | 2-(trifluoromethyl)oxirane | 0.60 mmol, 67.8 mg | FC(C1OC1)(F)F | C3H3F3O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-(4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-5-fluoro-2-methylphenyl)piperidin-1-yl)-1,1,1-trifluoropropan-2-ol | ClC=1C(=NC(=NC1)NC1=CC(=C(C=C1F)C1CCN(CC1)CC(C(F)(F)F)O)C)NC1=NNC(=C1)C | C23H26ClF4N7O
